US09421205B2
(f) Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I27)
LiOH.H2O (0.052 g, 1.25 mmol) was added to tert-butyl 3-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I26) (0.249 g, 0.416 mmol) in THF (10 mL), water (2.5 mL) and methanol (1 mL). The resulting mixture was allowed to stir for 2 hours at 40° C. and then 20 hours at room temperature. The volatiles were removed in vacuo and the residue was diluted with EtOAc (70 mL) and 2 M aq. NaOH (50 mL). The layers were separated and the aqueous layer was extracted with EtOAc (70 mL), the organic layers were combined, washed with brine (70 mL), dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound (I27) (0.250 g, 100% yield) as an off-white oily solid; 1H NMR (400 MHz, d6-DMSO) δ 10.23 (s, 1H), 8.64 (s, 1H), 7.72-7.60 (m, 2H), 7.25-7.00 (m, 6H), 4.01-3.88 (m, 2H), 3.48 (s, 2H), 3.13-2.92 (m, 4H), 2.86-2.63 (m, 2H), 1.91-1.81 (m, 1H), 1.72-1.54 (m, 2H), 1.48-1.34 (m, 10H). LCMS Method C: rt 6.71 min; m/z 585.3 [M+H]+.

reactant | LiOH.H2O | 1.25 mmol, 0.052 g | O[Li].O
reactant | tert-butyl 3-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.416 mmol, 0.249 g | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C32H37F3N4O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.250 g, 100% yield | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+] | InChI=1S/C31H35F3N4O4.Li/c1-30(2,3)42-29(41)38-16-6-9-23(19-38)21-10-13-24(14-11-21)36-28-35-18-25(31(32,33)34)26(37-28)15-12-20-7-4-5-8-22(20)17-27(39)40;/h4-5,7-8,10-11,13-14,18,23H,6,9,12,15-17,19H2,1-3H3,(H,39,40)(H,35,36,37);/q;+1/p-1
